US08557983B2
tert-butyl 2-(5-hydroxy-1H-indol-3-yl)ethylcarbamate
To a suspension of 3-(2-aminoethyl)-1H-indol-5-ol, hydrochloride (5 g) in dichloromethane (100 mL) was added N-ethyl-N-isopropylpropan-2-amine (3.19 g) followed by a solution of di-tert-butyl dicarbonate (5.64 g) in dichloromethane (10 mL). The mixture was stirred at ambient temperature under nitrogen 18 hours. The resulting solution was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude material was purified on silica gel with 1-5% methanol in methylene chloride.

reactant | 3-(2-aminoethyl)-1H-indol-5-ol, hydrochloride | 5 g | Cl.NCCC1=CNC2=CC=C(C=C12)O
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.19 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 5.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 2-(5-hydroxy-1H-indol-3-yl)ethylcarbamate | OC=1C=C2C(=CNC2=CC1)CCNC(OC(C)(C)C)=O | C15H20N2O3
